US05571813
4.9 g (30.8 mmol) 3-amino-5-phenylpyrazole, which was prepared from 3-oxo-3-phenylpropionitrile and hydrazine (M. H. Elnagdi, M. R. H. Elmoghayar, G. E. H. Elgemeie, Synthesis 1984, 1), and 4.0 g (30.7 mmol) methyl 3-oxovalerate were heated for 70 min in 10 ml acetic acid. The title compound precipitated in colorless needles from the mixture upon cooling, which were filtered by suction, washed with water, and recrystallized from ethanol, m.p. 316°-318° C.

reactant | 3-oxo-3-phenylpropionitrile | O=C(CC#N)C1=CC=CC=C1 | C9H7NO
reactant | hydrazine | NN | H4N2
reactant | methyl 3-oxovalerate | 30.7 mmol, 4.0 g | O=C(CC(=O)OC)CC | C6H10O3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 3-amino-5-phenylpyrazole | 30.8 mmol, 4.9 g | NC1=NNC(=C1)C1=CC=CC=C1 | C9H9N3
